US08377970B2
N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]nicotinamide hydrochloride
Following the general procedure-1, N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]nicotinamide (220 mg) was prepared from intermediate 27 (200 mg, 0.84 mmol) and isonicotinic acid (164 mg, 1.34 mmol) as an off-white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (190 mg) as an off-white solid. M.P.: 230.2-232.9° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.97 (s, 1H), 9.34 (s, 1H), 8.94 (d, J 3.6, 1H), 8.74 (bs, 1H), 7.93 (d, J 8.8, 3H), 7.60 (d, J 8.8, 2H), 5.82 (s, 1H), 1.90-1.74 (m, 2H), 0.95-0.80 (m, 4H), 0.70-0.60 (m, 4H). MS (m/z): 345.15 [M+H—HCl]+.

reactant | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]nicotinamide | 220 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(C1=CN=CC=C1)=O | C21H20N4O
reactant | isonicotinic acid | 1.34 mmol, 164 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]nicotinamide hydrochloride | 190 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(C1=CN=CC=C1)=O | InChI=1S/C21H20N4O.ClH/c26-21(16-2-1-11-22-13-16)23-17-7-9-18(10-8-17)25-20(15-5-6-15)12-19(24-25)14-3-4-14;/h1-2,7-15H,3-6H2,(H,23,26);1H
